US05206312
Preparation of 1,3-bis-(3-(2-hydroxylphenyl)-propyl-1,1,3,3-tetramethyldisiloxane
To a 85 ml toluene solution containing 67.1 g (0.5 mole) of 2-allylphenol and 0.4 g of a 5% solution of H2PtCl6 in t-amyl alcohol is added a solution consisting of 15 ml of toluene and 38.8 g (0.25 mole) of 1,1,3,3-tetramethyldisiloxane at 75° C. The addition is complete in 1 hour. The mixture is heated at 85° C. for 1 hour and then at 105° C. for 3 hours. After washing successively three times with 100 ml portions of water, 101 g of the 2:1 molar adduct, 1,3-bis-(3-(2-hydroxylphenyl)-propyl)-1,1,3,3-tetramethyldisiloxane (>92% pure by gel chromatography, GC) having a light straw color is obtained after stripping off solvent. The structure of the product 1,3-bis-(3-(2-hydroxylphenyl)-propyl)-1,1,3,3-tetramethyldisiloxane is confirmed by 1H NMR and IR (neat).

reactant | toluene | 85 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-allylphenol | 0.5 mole, 67.1 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1,1,3,3-tetramethyldisiloxane | 0.25 mole, 38.8 g | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | 1,3-bis-(3-(2-hydroxylphenyl)-propyl)-1,1,3,3-tetramethyldisiloxane | OC1=C(C=CC=C1)CCC[Si](O[Si](C)(C)CCCC1=C(C=CC=C1)O)(C)C | C22H34O3Si2
solvent | t-amyl alcohol | C(C)(C)(CC)O | C5H12O
product | 3-(2-hydroxylphenyl)-propyl-1,1,3,3-tetramethyldisiloxane | OC1=C(C=CC=C1)CCC[Si](O[SiH](C)C)(C)C | C13H24O2Si2
